US05516683
Production of Purified Stocks of Recombinant Human D4 Dopamine Receptor-Containing Vaccinia Virus
The pooled supernatant was underlayed with 16 mL of a 36 % sucrose solution prepared in 10 mM Tris (pH 9.0). The supernatant was then ultracentrifuged at 18,000 rpm in a Beckman SW28 rotor for 80 min at 4° C. to pellet recombinant virus. After ultracentrifugation, the supernatant was removed from the visible virus pellet by aspiration, and the pellet resuspended in 1.0-1.5 mL 10 mm Tris (pH 9.0). This suspension was dounced about 7 times on ice to provide a suspension having a milky, even consistency. The recombinant virus suspension was then transferred in 20-40μL aliquots to 2 mL plastic screw-capped FALCON tubes, titred and stored at -70° C. Typical virus stocks prepared in this way were found to have viral titres of about 1010 pfu/mL.

reactant | sucrose | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@]2([C@H]([C@@H]([C@H](O2)CO)O)O)CO)O)O)O)O | C12H22O11
reactant | Tris | 10 mM, pH 9.0 | C(C(CO)(CO)N)O | C4H11NO3
product | Dopamine | NCCC1=CC(O)=C(O)C=C1 | C8H11NO2
